US06180635B2
4-(3,4-Dimethoxyphenyl)-N-{4-[(1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidin-6-yl)methyl]phenyl}-butanamide
To a solution of N-ethyl-N′-[3-(dimethylamino)propyl]carbodiimide (37 mg), 1-hydroxybenzotriazole (26 mg) and 4-(3,4-dimethyloxyphenyl)butanoic acid (36 mg) in dichloromethane (6 ml) was added 6-(4-aminophenylmethyl)-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione (45 mg) in dichloromethane (2 ml). The reaction mixture was stirred overnight and then washed with half saturated sodium hydrogen carbonate and extracted into ethyl acetate. The organic layer was dried over magnesium sulfate, evaporated and the residue was purified by normal phase HPLC (isohexane:ethyl acetate 50-0:50-100) to give the title compound (19 mg) as a foam.

reactant | N-ethyl-N′-[3-(dimethylamino)propyl]carbodiimide | 37 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 26 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-(3,4-dimethyloxyphenyl)butanoic acid | 36 mg | COC=1C=C(C=CC1OC)CCCC(=O)O | C12H16O4
reactant | 6-(4-aminophenylmethyl)-3-methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione | 45 mg | NC1=CC=C(C=C1)CC1=CC2=C(N(C(N(C2=O)C)=O)CC(C)C)S1 | C18H21N3O2S
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-(3,4-Dimethoxyphenyl)-N-{4-[(1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidin-6-yl)methyl]phenyl}-butanamide | 19 mg | COC=1C=C(C=CC1OC)CCCC(=O)NC1=CC=C(C=C1)CC1=CC2=C(N(C(N(C2=O)C)=O)CC(C)C)S1 | C30H35N3O5S
